US06770637B2
N-(3,5-Bis-trifluoromethyl-benzyl)-6-iodo-N-methyl-4-o-tolyl-nicotinamide
To a solution of 1.00 g (2.05 mmol) N-(3,5-bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide in 10 ml 2-butanone 1.1 g (7.2 mmol) sodium iodide and 0.28 ml (2.1 mmol) hydroiodic acid (57% in water) were added at room temperature. The mixture was heated at 80° C. for 2 h. After cooling to room temperature the mixture was diluted with ethyl acetate and treated with saturated aqueous sodium bicarbonate solution. The layers were separated, the organic layer washed with water, dried with magnesium sulfate and concentrated to give 1.5 g of crude product. Flash column chromatography gave 1.11 g (93.6%) of the title compound as a yellow oil.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide | 2.05 mmol, 1.00 g | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)Cl)=O)C)C=C(C1)C(F)(F)F)(F)F | C23H17ClF6N2O
reactant | 2-butanone | 7.2 mmol, 10 ml, 1.1 g | CC(CC)=O | C4H8O
reactant | hydroiodic acid | 2.1 mmol, 0.28 ml | I | HI
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3,5-Bis-trifluoromethyl-benzyl)-6-iodo-N-methyl-4-o-tolyl-nicotinamide | 1.11 g, 93.6% | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)I)=O)C)C=C(C1)C(F)(F)F)(F)F | C23H17F6IN2O
